US05756507
Step 19B [2-(3,5-dimethylphenyl)-1H-indol-3-ylmethyl]trimethylammonium iodide
To a solution of [2-(3,5-dimethylphenyl)-1H-indol-3-ylmethyl]dimethylamine (350 mg in 4 mL diethyl ether) was added 0.5 mL iodomethane and the mixture stirred at room temperature. After 3 hours, the mixture was filtered and the solids dried in vacuo to provide the crude title compound. (414 mg).

reactant | [2-(3,5-dimethylphenyl)-1H-indol-3-ylmethyl]dimethylamine | 4 mL, 350 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1CN(C)C | C19H22N2
reactant | iodomethane | 0.5 mL | IC | CH3I
product | [2-(3,5-dimethylphenyl)-1H-indol-3-ylmethyl]trimethylammonium iodide | [I-].CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1C[N+](C)(C)C | InChI=1S/C20H25N2.HI/c1-14-10-15(2)12-16(11-14)20-18(13-22(3,4)5)17-8-6-7-9-19(17)21-20;/h6-12,21H,13H2,1-5H3;1H/q+1;/p-1
